US20010007764A1
Cbz-D-Tyr(tBu)-OH
N-benzyloxycarbonyloxysuccinimide (5.75 g) was added to a suspension of D-Tyr(tBu)-OH (5.0 g) in N,N-dimethyl formamide (40 ml). The pH of the solution was adjusted to 8 using triethylamine. The reaction mixture was stirred overnight at room temperature and then evaporated to dryness in vacuo. The residue was dissolved in dichloromethane and diluted with ice water. The pH of the water layer was adjusted to pH 2.5 with 2 N hydrogen chloride. The organic layer was seperated and the aqueous phase was extracted with dichloromethane. The organic layers were combined and washed with water, dried over sodium sulfate and concentrated. Yield: 9.95 g. TLC: Rf=0.31, heptane/ethyl acetate 1/1.

reactant | N-benzyloxycarbonyloxysuccinimide | 5.75 g | C(C1=CC=CC=C1)OC(=O)ON1C(CCC1=O)=O | C12H11NO5
reactant | D-Tyr(tBu)-OH | 5.0 g | N[C@H](CC1=CC=C(C=C1)OC(C)(C)C)C(=O)O | C13H19NO3
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethyl formamide | 40 ml | CN(C=O)C | C3H7NO
product | Cbz-D-Tyr(tBu)-OH | N([C@H](CC1=CC=C(C=C1)OC(C)(C)C)C(=O)O)C(=O)OCC1=CC=CC=C1 | C21H25NO5
